2178-08-27 07:42:00 Physician Resident Progress Note
Chief Complaint: Hypotension, pancreatic cancer
   24 Hour Events:
   - CVL placed in left IJ
   - Arterial line replaced overnight
   - Patient received ~ 5L of IVFs.  Started on Levophed at 4 am.
   - UOP remained poor.
   - Was given 50 mEq bicarb for metabolic acidosis
   History obtained from Patient
   Allergies:
   History obtained from PatientFlagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-26**] 07:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-27**] 02:21 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2178-8-26**] 11:00 PM
   Morphine Sulfate - [**2178-8-27**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-27**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 106 (100 - 115) bpm
   BP: 103/49(62) {81/43(53) - 104/57(64)} mmHg
   RR: 40 (14 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 8 (5 - 12)mmHg
   Total In:
                                                                  6,850 mL
                                                                  1,795 mL
   PO:
   TF:
   IVF:
                                                                  3,800 mL
                                                                  1,795 mL
   Blood products:
                                                                  3,000 mL
   Total out:
                                                                    679 mL
                                                                    311 mL
   Urine:
                                                                     89 mL
                                                                    136 mL
   NG:
   Stool:
   Drains:
                                                                    170 mL
                                                                    175 mL
   Balance:
                                                                  6,171 mL
                                                                  1,484 mL
   Respiratory support
   SpO2: 96%
   ABG: 7.30/21/124/10/-13
   Physical Examination
   General: Middle aged man, jaundiced, ill-appearing
   HEENT: Scleral icterus.  Dry mucous membranes, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Tachycardic.  Normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Biliary drain in place in RUQ.  TTP in RUQ.  +BS.
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   421 K/uL
   11.6 g/dL
   98 mg/dL
   4.0 mg/dL
   10 mEq/L
   5.4 mEq/L
   68 mg/dL
   112 mEq/L
   139 mEq/L
   36.1 %
   23.2 K/uL
        [image002.jpg]
                             [**2178-8-26**]  07:48 PM
                             [**2178-8-26**]  07:56 PM
                             [**2178-8-27**]  03:31 AM
                             [**2178-8-27**]  03:59 AM
   WBC
   8.7
   23.2
   Hct
   40.2
   36.1
   Plt
   438
   421
   Cr
   3.6
   4.0
   TCO2
   12
   11
   Glucose
   138
   98
   Other labs: PT / PTT / INR:17.1/36.3/1.5, ALT / AST:93/215, Alk Phos /
   T Bili:1064/21.2, Lactic Acid:4.5 mmol/L, Albumin:2.2 g/dL, LDH:235
   IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   The patient is a 60 yo man with h/o pancreatic cancer s/p
   Whipple/chemo/XRT, who presented with afferent limb obstruction of the
   pancreaticobiliary anastamosis and was transferred to the MICU with
   hypotension s/p extrahepatic drain placement.
   .
   #. Sepsis:  Most likely secondary to biliary tree infection.  He has
   remained hypotensive overnight and was placed on Levophed at 3 am.  CVL
   was placed, and he was started on Vanc/Zosyn.  Has metabolic acidosis
   with respiratory compensation and no evidence of tiring at this time.
    - Continue resuscitation with Levophed and IVFs if necessary for goal
   MAP > 65
    - will start meropenem, d/c zosyn, for ESBL coverage
    - Continue Vanc
    - Monitor UOP for goal > 50 cc/h
    - Check Lactate and ABG q4-6h
    - Maintain glucose < 180
    - Consider stress dose steroids, though patient was not hypotensive
   for > 1h.
    - will c/s surgery if lactate or WBC continues to increase despite
   antibiotics and IVFs
    - monitor respiratory status
   .
   #. Biliary Obstruction:  The patient has tumor obstructing the afferent
   limb of the pancreaticobiliary anastamosis, now s/p stent placement.
   The stent continues to drain serosanguinous fluid.
    - F/U bile cultures
    - F/U LFTs
    - Continue Hydroxyzine prn for itching
    - Continue Vanc/meropenem
   .
   # Pancreatic Cancer: Now widely metastatic.  Defer to Oncology for
   further management.
   .
   # ARF:  The patient's Cr on admission was 3.3, which is increased from
   his baseline of 1.0.  Renal was C/S on this admission, and they believe
   the patient's ARF is likely [**2-2**] ATN (given contrast for CT, poor PO
   intake) v. renal obstruction.  His UOP continues to decrease.
    - Give 50 mEq Bicarb prn
   - Continue IVFs as needed to maintain MAP > 65
    - F/U renal recs.
    - Use D5W with 3 amps HCO3 if needed for IVFs.
   .
   # Hyperkalemia:  The patient had a K of 5.4 on admission to the ICU.
   ECG did not show evidence of peaked T waves.
    - recheck EKG
    - Give Kayexelate if needed
   .
   # DM2: Continue HISS while in hospital.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Comments: HISS
   Lines:
   20 Gauge - [**2178-8-26**] 07:45 PM
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Arterial Line - [**2178-8-27**] 03:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2178-08-27 09:36:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60M with metastatic pancreatic adenocarcinoma, presesnt with new
   jaundice, fevers, and hypotension, s/p percutaneous stent placement
   complicated by worsening sepsis, now in MICU:
   24 Hour Events:
 MULTI LUMEN - START [**2178-8-26**] 09:09 PM
 ARTERIAL LINE - START [**2178-8-27**] 03:29 AM
   -started on norepinephrine overnight
   -remains oliguric; renal plans for HD later today
   -s/p ativan good dose with good relief
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-26**] 07:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-27**] 02:21 AM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2178-8-26**] 11:00 PM
   Morphine Sulfate - [**2178-8-27**] 04:20 AM
   Lorazepam (Ativan) - [**2178-8-27**] 07:30 AM
   Other medications:
   Asa, colace, vanco, riss, levo, ativan x1, morphine x1, zosyn, na
   bicarb,
   Changes to medical and family history:
   -s/p whipple 1 yr ago
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, Weight loss
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO, No(t) Tube feeds
   Respiratory: No(t) Cough, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-8-27**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 98 (98 - 115) bpm
   BP: 65/47(54) {65/47(54) - 71/50(60)} mmHg
   RR: 22 (14 - 40) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (5 - 12)mmHg
   Total In:
                                                                  6,850 mL
                                                                  2,021 mL
   PO:
   TF:
   IVF:
                                                                  3,800 mL
                                                                  2,021 mL
   Blood products:
                                                                  3,000 mL
   Total out:
                                                                    679 mL
                                                                    323 mL
   Urine:
                                                                     89 mL
                                                                    148 mL
   NG:
   Stool:
   Drains:
                                                                    170 mL
                                                                    175 mL
   Balance:
                                                                  6,171 mL
                                                                  1,698 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.30/21/124/10/-13
   Physical Examination
   General Appearance: No(t) No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Diffuse tender, mild, Bowel sounds present; RUQ drain
   in place
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   421 K/uL
   98 mg/dL
   4.0 mg/dL
   10 mEq/L
   5.4 mEq/L
   68 mg/dL
   112 mEq/L
   139 mEq/L
   36.1 %
   23.2 K/uL
        [image002.jpg]
                             [**2178-8-26**]  07:48 PM
                             [**2178-8-26**]  07:56 PM
                             [**2178-8-27**]  03:31 AM
                             [**2178-8-27**]  03:59 AM
   WBC
   8.7
   23.2
   Hct
   40.2
   36.1
   Plt
   438
   421
   Cr
   3.6
   4.0
   TCO2
   12
   11
   Glucose
   138
   98
   Other labs: PT / PTT / INR:17.1/36.3/1.5, ALT / AST:93/215, Alk Phos /
   T Bili:1064/21.2, Lactic Acid:4.5 mmol/L, Albumin:2.2 g/dL, LDH:235
   IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Microbiology: fluid cultures pending
   Assessment and Plan
 ACIDOSIS, RESPIRATORY
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CANCER (MALIGNANT NEOPLASM), OTHER
   60M with metastatic pancreatic adenocarcinoma, presented with new
   jaundice, fevers, and hypotension, s/p percutaneous stent placement
   complicated by worsening sepsis, now in MICU with worsening septic
   shock, oliguric renal failure and progressive metabolic acidosis.
   Likely etiology of sepsis is GNR bacteremia though BC were drawn today
   on antibiotics and may be sterile. Will continue zosyn and vancomycin,
   and will double cover for resistant GNR, initially with ciprofloxacin
   but may need a carbopenem. Will consider VRE as well. Aggressive
   supportive care at this time, including possible CVVH (likely ATN),
   pressors, and abx.
 Vanc/Meropenem for now pending biliary cultures.
   Renal u/s is pending, and renal team will discuss RRT with patient
   today.
   Addendum: after a long discussion with Mr [**Known lastname 8549**] this afternoon, he
   initially refused dialysis but then decided to proceed. He does not
   want to limit his care and remains full code. He continues to believe
   that he will beat the cancer and did not wish to burden his wife and
   ask that she come in to help with the goals of care discussion. He
   finally called his wife and she is supposedly on her way in. Dr
   [**Last Name (STitle) 2998**] is also going to try to come in tonight to speak to Mr
   [**Known lastname 8549**]. Separate from his metastatic pancreatic ca, prognosis from his
   sepsis remains poor. Dialysis to be initiated. If his acidosis
   progresses or he begins to fatigue, he would likely require ventilatory
   support. He expressed clearly that he would not want to live ventilator
   dependent. This discussion took place with [**Name8 (MD) 777**], RN, myself, and Dr
   [**Last Name (STitle) **] [**Name (STitle) 6197**].
   ICU Care
   Nutrition: NPO for now, may need additional procedures; can advance
   diet as tolerated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2178-8-26**] 07:45 PM
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Arterial Line - [**2178-8-27**] 03:29 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 60 minutes
   Patient is critically ill

2178-08-28 08:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 60 yo man with h/o pancreatic cancer s/p
   Whipple/chemo/XRT, who presented with afferent limb obstruction of the
   pancreaticobiliary anastamosis and was transferred to the MICU with
   hypotension s/p extrahepatic drain placement.
   24 Hour Events:
 BLOOD CULTURED - At [**2178-8-27**] 10:30 AM
   Aline and L IJ sent
 DIALYSIS CATHETER - START [**2178-8-27**] 04:43 PM
   - pressors changed to levo/vasopressin from levo/neo
   - initially, patient refused dialysis but re-addressed later in day,
   i.e. not internally consistent to refuse dialysis and agree to other
   life-saving measures, and agreed to dialysis
   - femoral HD line placed
   - started CVVH
   - had stable metabolic acidosis with respiratory compensation
   - dr. [**Last Name (STitle) **] (oncologist) and fellow met with patient but he was
   somewhat sedated from ativan, not very interactive
   - wife and children cam to visit in evening, updated them on situation
   - had [**Last Name (un) **] stim test, started stress dose steroids
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-27**] 09:15 AM
   Vancomycin - [**2178-8-27**] 03:30 PM
   Meropenem - [**2178-8-27**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Propofol - 40 mcg/Kg/min
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-8-27**] 10:45 AM
   Heparin Sodium (Prophylaxis) - [**2178-8-27**] 06:00 PM
   Lorazepam (Ativan) - [**2178-8-28**] 01:20 AM
   Morphine Sulfate - [**2178-8-28**] 01:20 AM
   Propofol - [**2178-8-28**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-28**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.4
C (95.7
   HR: 72 (72 - 109) bpm
   BP: 92/53(69) {67/50(57) - 117/67(89)} mmHg
   RR: 26 (18 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (5 - 17)mmHg
   Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  4,305 mL
                                                                  1,380 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  4,185 mL
                                                                  1,380 mL
   Blood products:
   Total out:
                                                                    554 mL
                                                                    225 mL
   Urine:
                                                                    299 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
                                                                    255 mL
                                                                     65 mL
   Balance:
                                                                  3,751 mL
                                                                  1,155 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 90%
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 95%
   ABG: 7.30/31/59/15/-9
   Ve: 6.5 L/min
   PaO2 / FiO2: 66
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   482 K/uL
   11.9 g/dL
   246 mg/dL
   3.6 mg/dL
   15 mEq/L
   5.3 mEq/L
   67 mg/dL
   105 mEq/L
   136 mEq/L
   37.5 %
   30.3 K/uL
        [image002.jpg]
                             [**2178-8-27**]  03:59 AM
                             [**2178-8-27**]  08:41 AM
                             [**2178-8-27**]  12:02 PM
                             [**2178-8-27**]  01:10 PM
                             [**2178-8-27**]  04:50 PM
                             [**2178-8-27**]  05:25 PM
                             [**2178-8-27**]  10:01 PM
                             [**2178-8-28**]  03:30 AM
                             [**2178-8-28**]  03:42 AM
                             [**2178-8-28**]  07:35 AM
   WBC
   31.7
   30.0
   30.3
   Hct
   38.3
   37.2
   37.5
   Plt
   [**Telephone/Fax (3) 8566**]
   Cr
   4.2
   4.0
   3.6
   TCO2
   11
   9
   10
   12
   12
   16
   16
   Glucose
   181
   216
   246
   Other labs: PT / PTT / INR:20.8/50.7/1.9, ALT / AST:105/215, Alk Phos /
   T Bili:999/21.0, Differential-Neuts:79.0 %, Band:6.0 %, Lymph:5.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:3.7 mmol/L, Albumin:2.2 g/dL,
   LDH:309 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:5.7 mg/dL
   Microbiology: No new cx data
   Assessment and Plan
   60 yo man with h/o pancreatic cancer s/p Whipple/chemo/XRT, who
   presented with afferent limb obstruction of the pancreaticobiliary
   anastamosis and was transferred to the MICU with hypotension s/p
   extrahepatic drain placement.
   #. Sepsis:  Most likely secondary to biliary tree infection.  On
   levophed and vasopressin, vanc/meropenem for ESBL coverage.  Started
   stress dose steroids on [**8-27**].
    - Continue resuscitation with Levophed, neo, vasopressin and IVFs if
   necessary for goal MAP > 65
    - Continue Vanc/meropenem
    - Monitor UOP for goal > 50 cc/h
   - Maintain glucose < 180
    - continue hydrocort for now
    - Consider stress dose steroids, though patient was not hypotensive
   for > 1h.
    - will c/s surgery if lactate or WBC continues to increase despite
   antibiotics and IVFs
   #. Hypoxic respiratory failure:  Intubated on [**8-27**] for hypoxia likely
   secondary to volume overload in the setting of oliguria.
   - AC/CMV for now
   - Check Lactate and ABG q4-6h; pH goal 7.25
   - once BP stabilizes, will remove fluid
   - touch base with family
   #. Biliary Obstruction:  The patient has tumor obstructing the afferent
   limb of the pancreaticobiliary anastamosis, now s/p stent placement.
   The stent continues to drain serosanguinous fluid.
    - RUQ U/S to eval for more distal areas of obstruction and touch base
   with IR afterward
   - F/U LFTs
    - Continue Hydroxyzine prn for itching
    - Continue Vanc/meropenem; add cipro for pseudomonas double coverage
   given bile + pseudomonas and s aureus (sensities pnd)
    - would consider lactulose for possible component of hepatic
   encephalopathy given AMS overnight
   - t/[**Initials (NamePattern4) 8572**] [**Doctor First Name 91**] re surgical options
   - t/b w IR re replacing drain
   # Pancreatic Cancer: Now widely metastatic.  Dr. [**Last Name (STitle) 2998**] and fellow
   met with patient on [**8-27**].  No role for chemo in this setting but would
   consider afteward.
   - Defer to Oncology for further management.
   - palliative care c/s
   # ARF:  The patient's Cr on admission was 3.3, which is increased from
   his baseline of 1.0.  Renal was C/S on this admission, and they believe
   the patient's ARF is likely [**2-2**] ATN (given contrast for CT, poor PO
   intake) v. renal obstruction.  HD line placed on [**8-27**] and now on CVVH.
    - cont CVVH
    - Continue IVFs as needed to maintain MAP > 65
    - F/U renal recs.
    - Use D5W with 3 amps HCO3 if needed for IVFs.
    - renally dose meds
   # Hyperkalemia:  The patient had a K of 5.4 on admission to the ICU.
   ECG did not show evidence of peaked T waves.
    - recheck EKG as needed
    - Give Kayexelate if needed
   # DM2: Continue HISS while in hospital.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-26**] 07:45 PM
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Arterial Line - [**2178-8-27**] 03:29 AM
   Dialysis Catheter - [**2178-8-27**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2178-08-28 11:13:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60M with metaststic pancreatic CA, presented with obstruction of
   proximal loop, leading to biliary obstuction, septic shock, with ARF
   from ATN:
   24 Hour Events:
 BLOOD CULTURED - At [**2178-8-27**] 10:30 AM
   Aline and L IJ sent
 DIALYSIS CATHETER - START [**2178-8-27**] 04:43 PM
   -started on CVVH
   -intubated this AM
   -abx broadenend yesterday
   -high random [**Last Name (un) **] but inadequate stim
   History obtained from Patient
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-27**] 09:15 AM
   Vancomycin - [**2178-8-27**] 03:30 PM
   Meropenem - [**2178-8-28**] 09:54 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Propofol - 40 mcg/Kg/min
   Norepinephrine - 0.22 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-8-27**] 06:00 PM
   Lorazepam (Ativan) - [**2178-8-28**] 01:20 AM
   Morphine Sulfate - [**2178-8-28**] 01:20 AM
   Propofol - [**2178-8-28**] 08:15 AM
   Famotidine (Pepcid) - [**2178-8-28**] 09:00 AM
   Other medications:
   asa, vanco, riss, sqh, famotidine, [**Last Name (un) **], hydrocort, vasopressin,
   norepi, phenylephrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea
   Genitourinary: Foley
   Integumentary (skin): Jaundice, No(t) Rash
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-8-28**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.4
C (95.7
   HR: 102 (72 - 109) bpm
   BP: 74/46(57) {67/46(57) - 122/71(93)} mmHg
   RR: 24 (15 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 6 (5 - 17)mmHg
   Bladder pressure: 10 (10 - 10) mmHg
                                Total In:
                                                                  4,306 mL
                                                                  2,277 mL
   PO:
                                                                    120 mL
                                TF:
   IVF:
                                                                  4,186 mL
                                                                  2,277 mL
   Blood products:
   Total out:
                                                                    554 mL
                                                                    335 mL
   Urine:
                                                                    299 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
                                                                    255 mL
                                                                     65 mL
   Balance:
                                                                  3,752 mL
                                                                  1,942 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 90%
   PIP: 24 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 91%
   ABG: 7.11/57/95.[**Numeric Identifier 253**]/15/-12
   Ve: 11 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   482 K/uL
   246 mg/dL
   3.6 mg/dL
   15 mEq/L
   5.3 mEq/L
   67 mg/dL
   105 mEq/L
   136 mEq/L
   37.5 %
   30.3 K/uL
        [image002.jpg]
                             [**2178-8-27**]  08:41 AM
                             [**2178-8-27**]  12:02 PM
                             [**2178-8-27**]  01:10 PM
                             [**2178-8-27**]  04:50 PM
                             [**2178-8-27**]  05:25 PM
                             [**2178-8-27**]  10:01 PM
                             [**2178-8-28**]  03:30 AM
                             [**2178-8-28**]  03:42 AM
                             [**2178-8-28**]  07:35 AM
                             [**2178-8-28**]  09:40 AM
   WBC
   31.7
   30.0
   30.3
   Hct
   38.3
   37.2
   37.5
   Plt
   [**Telephone/Fax (3) 8566**]
   Cr
   4.2
   4.0
   3.6
   TCO2
   9
   10
   12
   12
   16
   16
   19
   Glucose
   181
   216
   246
   Other labs: PT / PTT / INR:20.8/50.7/1.9, ALT / AST:105/215, Alk Phos /
   T Bili:999/21.0, Differential-Neuts:79.0 %, Band:6.0 %, Lymph:5.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:3.7 mmol/L, Albumin:2.2 g/dL,
   LDH:309 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:5.7 mg/dL
   Imaging: cxr: c/w pulmonary edema, R effusion; ETT in good position
   Microbiology: bile cx: pending
   bcx: ngtd
   Assessment and Plan
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANXIETY
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, RESPIRATORY
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)/SHOCK
 CANCER (MALIGNANT NEOPLASM), OTHER
   60M with metastatic pancreatic CA, presented with obstruction of
   proximal loop, leading to biliary obstuction, respiratory failure,
   septic shock, with ARF likely from ATN. Grim prognosis.
   Current shock is likely septic given biliary pus on intervention,
   although no positive blood cultures yet. Aggressive support at this
   time includes pressors for map goal >60, steroids, and broad abx and
   double coverage for GNRs. Additional source control procedures may
   include additional drains; will also discuss with surgery and IR.
   Waiting to repeat abd u/s. Prior TTE is reassuring, but need to check
   central venous sat, CVP, and lactate. Also will ask micro to speciate
   biliary cultures.
   Hypoxic acute respiratory failure likely from fluid overload. Will
   continue vent support and use low tidal volumes as much as pH
   tolerates, with permissive hypercarbia.
   CVVH for ARF, running net even for now given hypotension.
   ICU Care
   Nutrition: nutrition consult once PO access
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2178-8-26**] 07:45 PM
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Arterial Line - [**2178-8-27**] 03:29 AM
   Dialysis Catheter - [**2178-8-27**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:  I
   had a frank discussion with [**Doctor First Name **], Mr [**Known lastname 8549**]
s wife, and explained the
   poor outlook both from his current septic shock with multiorgan failure
   and more importantly, his underlying metastatic disease. She admitted
   that she is remaining in denial. [**First Name8 (NamePattern2) 2052**] [**Last Name (NamePattern1) 4253**], RN was present during
   the discussion.
   Mr [**Known lastname 8549**]
s brother has been in and feels strongly that Mr [**Known lastname 8549**]
   should not be aggressively treated. Mrs [**Known lastname 8549**] has not made any changes
   to the goals of care at this point.
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2178-08-29 07:52:00 Physician Resident Progress Note
Chief Complaint: Hypotension, bacteremia
   24 Hour Events:
   - intubated for hypoxic respiratory failure
   - IR: would increase size of drain once decreased output; RUQ US
   - RUQUS: prelim with appropriate drainage
   - Bile fluid with pseudomonas, s aureus; speciation pnd; added cipro
   for pseudomonas double coverage
   - ABGs:
   7.11/57/96
   7.23/39/83 (increased RR to 24)
   7.30/34/124 (decreased fio2 to 75)
   7.36/38/83 (increased fio2 to 90 and peep to 8)
   - SURGERY: not surgical candidate at this time
   - PC c/s
   - CVVH
   - CVO2% 84
   - levo, neo, vasopressin
   - multiple attempts at ng tube failed
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-27**] 09:15 AM
   Vancomycin - [**2178-8-27**] 03:30 PM
   Meropenem - [**2178-8-29**] 01:16 AM
   Ciprofloxacin - [**2178-8-29**] 05:25 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.22 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Propofol - 24.6 mcg/Kg/min
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Propofol - [**2178-8-28**] 08:15 AM
   Famotidine (Pepcid) - [**2178-8-28**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2178-8-29**] 02:02 AM
   Fentanyl - [**2178-8-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-29**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 62 (55 - 108) bpm
   BP: 110/54(72) {73/46(57) - 141/74(96)} mmHg
   RR: 24 (15 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 3 (0 - 7)mmHg
   Total In:
                                                                  6,895 mL
                                                                  2,770 mL
   PO:
   TF:
   IVF:
                                                                  6,895 mL
                                                                  2,770 mL
   Blood products:
   Total out:
                                                                  4,757 mL
                                                                  2,163 mL
   Urine:
                                                                    305 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
                                                                    115 mL
                                                                     60 mL
   Balance:
                                                                  2,138 mL
                                                                    607 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 90%
   PIP: 14 cmH2O
   Plateau: 13 cmH2O
   Compliance: 68.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/38/82.[**Numeric Identifier 253**]/19/-3
   Ve: 12.8 L/min
   PaO2 / FiO2: 92
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   396 K/uL
   11.8 g/dL
   258 mg/dL
   2.4 mg/dL
   19 mEq/L
   5.1 mEq/L
   43 mg/dL
   95 mEq/L
   132 mEq/L
   36.0 %
   28.2 K/uL
        [image002.jpg]
                             [**2178-8-28**]  07:35 AM
                             [**2178-8-28**]  09:40 AM
                             [**2178-8-28**]  10:51 AM
                             [**2178-8-28**]  10:56 AM
                             [**2178-8-28**]  02:50 PM
                             [**2178-8-28**]  04:00 PM
                             [**2178-8-28**]  09:45 PM
                             [**2178-8-28**]  09:58 PM
                             [**2178-8-29**]  03:54 AM
                             [**2178-8-29**]  05:35 AM
   WBC
   32.4
   28.2
   Hct
   38
   36.7
   36.0
   Plt
   491
   396
   Cr
   3.0
   3.3
   2.4
   TCO2
   16
   19
   17
   17
   18
   22
   Glucose
   [**Telephone/Fax (3) 8591**]58
   Other labs: PT / PTT / INR:20.2/39.1/1.9, ALT / AST:170/562, Alk Phos /
   T Bili:930/16.8, Amylase / Lipase:/5, Differential-Neuts:91.0 %,
   Band:6.0 %, Lymph:5.9 %, Mono:2.8 %, Eos:0.1 %, Lactic Acid:3.9 mmol/L,
   Albumin:2.2 g/dL, LDH:870 IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.6
   mg/dL
   Imaging: CXR: Allowing for rotation, the cardiomediastinal silhouette
   is probably unchanged with mild cardiomegaly. Low lung volumes are
   causing bilateral lower lobe atelectasis and vague opacities, slightly
   worse on the right side. Significant
   gaseous distention of the stomach, new.
   RUQ U/S: 1. No evidence of obstruction of the CBD stent. There is no
   intrahepatic bile duct dilatation. The extrahepatic biliary tree cannot
   be assessed. 2. Multiple liver metastases.
   3. Moderate ascites
   Assessment and Plan
   60 yo man with h/o pancreatic cancer s/p Whipple/chemo/XRT, who
   presented with afferent limb obstruction of the pancreaticobiliary
   anastamosis and was transferred to the MICU with hypotension s/p
   extrahepatic drain placement.
   #. Sepsis:  Most likely secondary to biliary tree infection.  On
   levophed and vasopressin, vanc/meropenem for ESBL coverage.  Started
   stress dose steroids on [**8-27**].
    - Continue resuscitation with Levophed, neo, vasopressin and IVFs if
   necessary for goal MAP > 65
    - Continue Vanc/meropenem
    - Monitor UOP for goal > 50 cc/h
   - Maintain glucose < 180
    - continue hydrocort for now
    - Consider stress dose steroids, though patient was not hypotensive
   for > 1h.
    - will c/s surgery if lactate or WBC continues to increase despite
   antibiotics and IVFs
   #. Hypoxic respiratory failure:  Intubated on [**8-27**] for hypoxia likely
   secondary to volume overload in the setting of oliguria.
   - AC/CMV for now
   - Check Lactate and ABG q4-6h; pH goal 7.25
   - once BP stabilizes, will remove fluid
   - touch base with family
   #. Biliary Obstruction:  The patient has tumor obstructing the afferent
   limb of the pancreaticobiliary anastamosis, now s/p stent placement.
   The stent continues to drain serosanguinous fluid.
    - RUQ U/S to eval for more distal areas of obstruction and touch base
   with IR afterward
   - F/U LFTs
    - Continue Hydroxyzine prn for itching
    - Continue Vanc/meropenem; add cipro for pseudomonas double coverage
   given bile + pseudomonas and s aureus (sensities pnd)
    - would consider lactulose for possible component of hepatic
   encephalopathy given AMS overnight
   - t/[**Initials (NamePattern4) 8572**] [**Doctor First Name 91**] re surgical options
   - t/b w IR re replacing drain
   # Pancreatic Cancer: Now widely metastatic.  Dr. [**Last Name (STitle) 2998**] and fellow
   met with patient on [**8-27**].  No role for chemo in this setting but would
   consider afteward.
   - Defer to Oncology for further management.
   - palliative care c/s
   # ARF:  The patient's Cr on admission was 3.3, which is increased from
   his baseline of 1.0.  Renal was C/S on this admission, and they believe
   the patient's ARF is likely [**2-2**] ATN (given contrast for CT, poor PO
   intake) v. renal obstruction.  HD line placed on [**8-27**] and now on CVVH.
    - cont CVVH
    - Continue IVFs as needed to maintain MAP > 65
    - F/U renal recs.
    - Use D5W with 3 amps HCO3 if needed for IVFs.
    - renally dose meds
   # Hyperkalemia:  The patient had a K of 5.4 on admission to the ICU.
   ECG did not show evidence of peaked T waves.
    - recheck EKG as needed
    - Give Kayexelate if needed
   # DM2: Continue HISS while in hospital.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-26**] 07:45 PM
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Arterial Line - [**2178-8-27**] 03:29 AM
   Dialysis Catheter - [**2178-8-27**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:  ICU for now

2178-08-29 10:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 y/o m with mx pancreatic ca p/w biliary obx, drain placed
   successfully, now with sepsis. Bile grew staph and pseudomonas.
   Intubated yesterday for hypoxemia and hypercarbia.Palliative care
   consulted. Not surgical consult. On levophed/neo/vaso.
   Zosyn/vanc/meropenem/cipro.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2178-8-28**] 08:00 AM
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-27**] 09:15 AM
   Ciprofloxacin - [**2178-8-29**] 05:25 AM
   Meropenem - [**2178-8-29**] 08:00 AM
   Vancomycin - [**2178-8-29**] 08:45 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.22 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Propofol - 24.6 mcg/Kg/min
   Insulin - Regular - 3 units/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-8-29**] 02:02 AM
   Fentanyl - [**2178-8-29**] 06:00 AM
   Other medications:
   ASA, colace, hydrocort 50mg IV q6h, propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-29**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 65 (55 - 102) bpm
   BP: 139/73(93) {73/46(57) - 141/74(96)} mmHg
   RR: 22 (20 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 3 (0 - 7)mmHg
   Total In:
                                                                  6,895 mL
                                                                  3,752 mL
   PO:
   TF:
   IVF:
                                                                  6,895 mL
                                                                  3,752 mL
   Blood products:
   Total out:
                                                                  4,757 mL
                                                                  2,838 mL
   Urine:
                                                                    305 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
                                                                    115 mL
                                                                     60 mL
   Balance:
                                                                  2,138 mL
                                                                    914 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 90%
   PIP: 26 cmH2O
   Plateau: 14 cmH2O
   Compliance: 137.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/38/82.[**Numeric Identifier 253**]/19/-3
   Ve: 14.3 L/min
   PaO2 / FiO2: 92
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilat)
   Abdominal: Soft, Distended, no BS
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   396 K/uL
   258 mg/dL
   2.4 mg/dL
   19 mEq/L
   5.1 mEq/L
   43 mg/dL
   95 mEq/L
   132 mEq/L
   36.0 %
   28.2 K/uL
        [image002.jpg]
                             [**2178-8-28**]  07:35 AM
                             [**2178-8-28**]  09:40 AM
                             [**2178-8-28**]  10:51 AM
                             [**2178-8-28**]  10:56 AM
                             [**2178-8-28**]  02:50 PM
                             [**2178-8-28**]  04:00 PM
                             [**2178-8-28**]  09:45 PM
                             [**2178-8-28**]  09:58 PM
                             [**2178-8-29**]  03:54 AM
                             [**2178-8-29**]  05:35 AM
   WBC
   32.4
   28.2
   Hct
   38
   36.7
   36.0
   Plt
   491
   396
   Cr
   3.0
   3.3
   2.4
   TCO2
   16
   19
   17
   17
   18
   22
   Glucose
   [**Telephone/Fax (3) 8591**]58
   Other labs: PT / PTT / INR:20.2/39.1/1.9, ALT / AST:170/562, Alk Phos /
   T Bili:930/16.8, Amylase / Lipase:/5, Differential-Neuts:91.0 %,
   Band:6.0 %, Lymph:5.9 %, Mono:2.8 %, Eos:0.1 %, Lactic Acid:3.9 mmol/L,
   Albumin:2.2 g/dL, LDH:870 IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANXIETY
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, RESPIRATORY
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CANCER (MALIGNANT NEOPLASM), OTHER
   1. Biliary sepsis:
   -hydrocort d2
   -levo/neo/vaso
   -insulin gtt
   -vanco/[**Last Name (un) **]/cipro
   2. ARDS:
   -ARDSnet vent
   -goal pH >7.3
   -goal paO2 >60
   3. Biliary obx:
   -draining well
   -f/u cultures
   4. ARF:
   -CVVH
   -cont. to correct acidosis
   -likely ATN
   5. DM: Hyperglycemia
   -cont. insulin gtt
   6. FEN: No nutrition, attempt OG placement with laryngoscope
   7. Code: Full, but family considering DNR after discussion today
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2178-8-26**] 07:45 PM
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Arterial Line - [**2178-8-27**] 03:29 AM
   Dialysis Catheter - [**2178-8-27**] 04:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  60 yo M with pancreatic ca with sepsis /
   ards from biliary obstruction. He remains intubated with worsening
   hypoxemia. Remains on CVVH. Remains on 3 pressors.
   AF  60
s  140/70  Sat 94%  ACV 550/22/8/90%-->60%-->7.[**Numeric Identifier 8598**]
   Jaundiced M, intubated and sedated, Coarse with decreased bb BS, RR,
   decreased BS, soft, ND, trace edema
   Labs reviewed as above.
   Pt with MOSF from biliary sepsis/obstruction in setting of underlying
   pancreatic ca. Agree with plan to continue current aggressive
   supportive care for MOSD as we continue to address goals of care with
   family.  Prognosis remains poor.  Wean pressors as able maintaining
   MAPS > 60.  Continue broad antibx coverage (growing PSA and staph in
   biliary cx).  On stress steroids day 2 (unclear if he is relatively
   [**Name2 (NI) 8599**] insufficient).  Continue vent support with AC, ards net TVs,
   optimizing PEEP and weaning FIO2 as able.  Continuing CVVH. IR to
   evaluate biliary drain as drainage has stopped.  Consider changing
   sedation to fent/versed from propofol.  Continue to update family as to
   pt status and address goals of care.
   Remainder of plan as outlined in resident note.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2178-8-29**] 16:09 ------

2178-08-30 08:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 60 yo man with h/o pancreatic cancer s/p
   Whipple/chemo/XRT, who presented with afferent limb obstruction of the
   pancreaticobiliary anastamosis and was transferred to the MICU with
   hypotension s/p extrahepatic drain placement.
   24 Hour Events:
 ARTERIAL LINE - START [**2178-8-29**] 07:00 PM
 ARTERIAL LINE - STOP [**2178-8-29**] 07:05 PM
 EKG - At [**2178-8-29**] 07:07 PM
   [**8-28**]
   - intubated for hypoxic respiratory failure
   - IR: would increase size of drain once decreased output; RUQ US
   - RUQUS: prelim with appropriate drainage
   - Bile fluid with pseudomonas, s aureus; speciation pnd; added cipro
   for pseudomonas double coverage
   - ABGs:
   7.11/57/96
   7.23/39/83 (increased RR to 24)
   7.30/34/124 (decreased fio2 to 75)
   7.36/38/83 (increased fio2 to 90 and peep to 8)
   - SURGERY: not surgical candidate at this time
   - PC c/s
   - CVVH
   - CVO2% 84
   - levo, neo, vasopressin
   - multiple attempts at ng tube failed
   [**8-29**]:
   - NGT was placed by anesthesia. CXR confirmed placement
   - HCO3 increased from 16 to 21 with CVVH
   - Started on ARDS net protocol
   - A-Line replaced in left arm
   - ABGs:  7.40/36/96: FiO2 decreased to 60%.  Patient became hypoxic, so
   PEEP was increased to 12 from 8.  RR was increased from 20 to 22
   overnight.
   - Patient persistently bradycardic.  Propofol d/c'd, but then restarted
   at 5:30 am as patient was agitated.  Restarted on Versed and Fentanyl
   this morning.
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-27**] 09:15 AM
   Vancomycin - [**2178-8-29**] 08:45 AM
   Meropenem - [**2178-8-30**] 12:09 AM
   Ciprofloxacin - [**2178-8-30**] 04:25 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 150 mcg/hour
   Norepinephrine - 0.22 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Phenylephrine - 0.3 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Fentanyl - [**2178-8-29**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-30**] 02:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-30**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 47 (47 - 74) bpm
   BP: 118/68(86) {88/52(65) - 142/91(100)} mmHg
   RR: 22 (15 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
    CVP: 11 (7 - 25)mmHg
   Total In:
                                                                  8,823 mL
                                                                  3,028 mL
   PO:
   TF:
   IVF:
                                                                  8,823 mL
                                                                  3,028 mL
   Blood products:
   Total out:
                                                                  8,439 mL
                                                                  1,827 mL
   Urine:
                                                                     95 mL
                                                                     40 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
                                                                     95 mL
   Balance:
                                                                    384 mL
                                                                  1,201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 94%
   ABG: 7.31/48/106/22/-2
   Ve: 11.2 L/min
   PaO2 / FiO2: 177
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Sedated, Tone: Not
   assessed
   Labs / Radiology
   307 K/uL
   11.5 g/dL
   129 mg/dL
   2.4 mg/dL
   22 mEq/L
   4.1 mEq/L
   35 mg/dL
   95 mEq/L
   132 mEq/L
   34.6 %
   33.6 K/uL
        [image002.jpg]
                             [**2178-8-29**]  05:35 AM
                             [**2178-8-29**]  11:12 AM
                             [**2178-8-29**]  11:25 AM
                             [**2178-8-29**]  01:32 PM
                             [**2178-8-29**]  04:14 PM
                             [**2178-8-29**]  04:48 PM
                             [**2178-8-29**]  09:56 PM
                             [**2178-8-29**]  10:07 PM
                             [**2178-8-30**]  04:08 AM
                             [**2178-8-30**]  04:13 AM
   WBC
   28.2
   30.2
   33.6
   Hct
   36.0
   37.2
   34.6
   Plt
   396
   367
   307
   Cr
   2.4
   2.7
   2.4
   TCO2
   23
   23
   23
   25
   25
   Glucose
   258
   210
   134
   203
   129
   Other labs: PT / PTT / INR:18.3/34.1/1.7, ALT / AST:162/345, Alk Phos /
   T Bili:944/17.4, Amylase / Lipase:/5, Differential-Neuts:91.0 %,
   Band:6.0 %, Lymph:5.9 %, Mono:2.8 %, Eos:0.1 %, Lactic Acid:3.9 mmol/L,
   Albumin:2.3 g/dL, LDH:463 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.8
   mg/dL
   Microbiology: blood and bile cx pending.
   Assessment and Plan
   60 yo man with h/o pancreatic cancer s/p Whipple/chemo/XRT, who
   presented with afferent limb obstruction of the pancreaticobiliary
   anastamosis and was transferred to the MICU with hypotension s/p
   extrahepatic drain placement.
   #. Sepsis:  Most likely secondary to biliary tree infection.  On
   levophed and vasopressin, vanc/meropenem for ESBL coverage.  Started
   stress dose steroids on [**8-27**].
    - Continue resuscitation with Levophed,  vasopressin and IVFs if
   necessary for goal MAP > 65
    - off neo
    - Continue Vanc/meropenem/cipro; f/u specificities for staph and
   pseudomonas
    - Monitor UOP for goal > 50 cc/h
    - Maintain glucose < 180; insulin ggt
    - continue hydrocort for 5 days (today is day [**4-5**])
   #. Hypoxic respiratory failure:  Intubated on [**8-27**] for hypoxia likely
   secondary to volume overload in the setting of oliguria.
   - AC/CMV for now
   - cont ARDS net protocol with low tidal volumes
   - Check Lactate and ABG q4-6h; pH goal 7.25
   - once BP stabilizes, will remove fluid
   - touch base with family
   #. Biliary Obstruction:  The patient has tumor obstructing the afferent
   limb of the pancreaticobiliary anastamosis, now s/p stent placement.
   The stent continues to drain bilus  fluid. Defer replacement of drain
   for now given clinical acuity.
    -  F/U LFTs
    - Continue Hydroxyzine prn for itching
    - Continue Vanc/meropenem; added cipro for pseudomonas double coverage
   given bile + pseudomonas and s aureus (sensities pnd)
    - touch base with micro lab as speciation not listed
    - would consider lactulose for possible component of hepatic
   encephalopathy given AMS overnight
   # Pancreatic Cancer: Now widely metastatic.  Dr. [**Last Name (STitle) 2998**] and fellow
   met with patient on [**8-27**].  No role for chemo in this setting but would
   consider afteward.
   - Defer to Oncology for further management.
   - palliative care reccs
   # ARF:  The patient's Cr on admission was 3.3, which is increased from
   his baseline of 1.0.  Renal was C/S on this admission, and they believe
   the patient's ARF is likely [**2-2**] ATN (given contrast for CT, poor PO
   intake) v. renal obstruction.  HD line placed on [**8-27**] and now on CVVH.
    - cont CVVH
    - Continue IVFs as needed to maintain MAP > 65
    - F/U renal reccs
    - renally dose meds
   # Hyperkalemia:  The patient had a K of 5.4 on admission to the ICU.
   ECG did not show evidence of peaked T waves.
    - recheck EKG as needed
    - CVVH
   # DM2: Continue HISS while in hospital.
   ICU Care
   Nutrition: tube feed reccs
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-26**] 07:45 PM
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Dialysis Catheter - [**2178-8-27**] 04:43 PM
   Arterial Line - [**2178-8-29**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2178-08-30 10:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 y/o m with pancreatic cancer, biliary sepsis.
   24 Hour Events:
 ARTERIAL LINE - START [**2178-8-29**] 07:00 PM
 ARTERIAL LINE - STOP [**2178-8-29**] 07:05 PM
 EKG - At [**2178-8-29**] 07:07 PM
   OG placed by anesthesia. Bradycardic to 40s with unchanged BP. PEEP
   increased to 12 and FiO2 60%. Pressors decreasing.
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2178-8-30**] 04:25 AM
   Meropenem - [**2178-8-30**] 08:00 AM
   Vancomycin - [**2178-8-30**] 08:31 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 150 mcg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 2 units/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Fentanyl - [**2178-8-29**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-30**] 02:07 AM
   Other medications:
   Hydrocortisone 50 mg q8h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-30**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 48 (47 - 74) bpm
   BP: 96/54(69) {88/52(65) - 142/91(100)} mmHg
   RR: 22 (15 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
   CVP: 9 (7 - 25)mmHg
   Total In:
                                                                  8,823 mL
                                                                  3,905 mL
   PO:
   TF:
   IVF:
                                                                  8,823 mL
                                                                  3,905 mL
   Blood products:
   Total out:
                                                                  8,439 mL
                                                                  2,622 mL
   Urine:
                                                                     95 mL
                                                                     50 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
                                                                     95 mL
   Balance:
                                                                    384 mL
                                                                  1,283 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 92%
   ABG: 7.35/45/102/22/0
   Ve: 11.1 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   307 K/uL
   129 mg/dL
   2.4 mg/dL
   22 mEq/L
   4.1 mEq/L
   35 mg/dL
   95 mEq/L
   132 mEq/L
   34.6 %
   33.6 K/uL
         [image002.jpg]
                             [**2178-8-29**]  11:12 AM
                             [**2178-8-29**]  11:25 AM
                             [**2178-8-29**]  01:32 PM
                             [**2178-8-29**]  04:14 PM
                             [**2178-8-29**]  04:48 PM
                             [**2178-8-29**]  09:56 PM
                             [**2178-8-29**]  10:07 PM
                             [**2178-8-30**]  04:08 AM
                             [**2178-8-30**]  04:13 AM
                             [**2178-8-30**]  10:03 AM
   WBC
   30.2
   33.6
   Hct
   37.2
   34.6
   Plt
   367
   307
   Cr
   2.7
   2.4
   TCO2
   23
   23
   23
   25
   25
   26
   Glucose
   [**Telephone/Fax (3) 8614**]29
   Other labs: PT / PTT / INR:18.3/34.1/1.7, ALT / AST:162/345, Alk Phos /
   T Bili:944/17.4, Amylase / Lipase:/5, Differential-Neuts:91.0 %,
   Band:6.0 %, Lymph:5.9 %, Mono:2.8 %, Eos:0.1 %, Lactic Acid:3.9 mmol/L,
   Albumin:2.3 g/dL, LDH:463 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANXIETY
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, RESPIRATORY
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CANCER (MALIGNANT NEOPLASM), OTHER
   Plan:
   1. Biliary sepsis:
   -cont. abx, f/u cultures
   -will stop hydrocort tomorrow
   -touch base with IR it seems the drain is clogged
   2. ARDS: Improving on vent
   -wean down FiO2
   -goal pH >7.3
   -wean FiO2 <0.5 wean down PEEP
   3. Pancreatic ca: Mx
   -discuss goals of care
   4. ARF: ATN
   -CVVH
   5. FEN: Start TF, increase bowel reg
   -touch base w surgery about TF
   6. sc hep, PPI
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2178-8-26**] 07:45 PM
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Dialysis Catheter - [**2178-8-27**] 04:43 PM
   Arterial Line - [**2178-8-29**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2178-08-31 07:19:00 Physician Resident Progress Note
Chief Complaint: The patient is a 60 yo man with h/o pancreatic cancer
   s/p Whipple/chemo/XRT, who presented with afferent limb obstruction of
   the pancreaticobiliary anastamosis and was transferred to the MICU with
   hypotension s/p extrahepatic drain placement.
   24 Hour Events:
   [**8-30**]:
   - made some headway in weaning pressors
   - his wife was visiting in the morning, his brother visited in the
   evening
   - put in for tube feed reccs
   - remained in sinus brady to high 40s - 50
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-30**] 08:31 AM
   Meropenem - [**2178-8-31**] 12:19 AM
   Ciprofloxacin - [**2178-8-31**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 2 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.19 mcg/Kg/min
   Phenylephrine - 0.3 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Fentanyl - 140 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-8-31**] 02:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-31**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 53 (43 - 66) bpm
   BP: 108/56(72) {91/52(66) - 133/81(101)} mmHg
   RR: 23 (21 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
    CVP: 9 (8 - 10)mmHg
   Total In:
                                                                  7,995 mL
                                                                  2,394 mL
   PO:
   TF:
                                                                    120 mL
                                                                    184 mL
   IVF:
                                                                  7,845 mL
                                                                  2,210 mL
   Blood products:
   Total out:
                                                                  6,183 mL
                                                                  2,020 mL
   Urine:
                                                                     80 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
                                                                     70 mL
   Balance:
                                                                  1,812 mL
                                                                    374 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, No Spon Resp
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/42/140/23/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General: Middle aged man, jaundiced, ill-appearing
   HEENT: Scleral icterus.  Dry mucous membranes, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Tachycardic.  Normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Biliary drain in place in RUQ.  TTP in RUQ.  +BS.
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   208 K/uL
   12.5 g/dL
   156 mg/dL
   2.4 mg/dL
   23 mEq/L
   4.2 mEq/L
   32 mg/dL
   95 mEq/L
   131 mEq/L
   38.7 %
   34.9 K/uL
        [image002.jpg]
                             [**2178-8-30**]  03:57 PM
                             [**2178-8-30**]  05:00 PM
                             [**2178-8-30**]  06:00 PM
                             [**2178-8-30**]  08:00 PM
                             [**2178-8-30**]  10:25 PM
                             [**2178-8-30**]  10:37 PM
                             [**2178-8-31**]  12:00 AM
                             [**2178-8-31**]  02:00 AM
                             [**2178-8-31**]  03:59 AM
                             [**2178-8-31**]  04:10 AM
   WBC
   34.9
   Hct
   38.7
   Plt
   208
   Cr
   2.4
   TCO2
   26
   26
   26
   Glucose
   122
   154
   142
   134
   130
   130
   136
   156
   Other labs: PT / PTT / INR:16.5/35.1/1.5, ALT / AST:127/204, Alk Phos /
   T Bili:875/16.7, Amylase / Lipase:/5, Differential-Neuts:89.0 %,
   Band:1.0 %, Lymph:1.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.8 mmol/L,
   Albumin:2.3 g/dL, LDH:391 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANXIETY
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, RESPIRATORY
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CANCER (MALIGNANT NEOPLASM), OTHER
   60 yo man with h/o pancreatic cancer s/p Whipple/chemo/XRT, who
   presented with afferent limb obstruction of the pancreaticobiliary
   anastamosis and was transferred to the MICU with hypotension s/p
   extrahepatic drain placement.
   #. Sepsis:  Most likely secondary to biliary tree infection.  On
   levophed and Phenylephrine overnight, now on just levophed,
   vanc/meropenem for ESBL coverage.  Started stress dose steroids on
   [**8-27**].
    - Continue resuscitation with Levophed and IVFs if necessary for goal
   MAP > 65
    - Continue Vanc/meropenem/cipro; f/u specificities for staph and
   pseudomonas
    - Monitor UOP for goal > 50 cc/h
    - Maintain glucose < 180; insulin ggt
    - continue hydrocort for 5 days (today is day [**5-5**])
   #. Hypoxic respiratory failure:  Intubated on [**8-27**] for hypoxia likely
   secondary to volume overload in the setting of oliguria.
   - AC/CMV for now
   - cont ARDS net protocol with low tidal volumes
   - Check Lactate and ABG q4-6h; pH goal 7.25
   - once BP stabilizes, will remove fluid
   - touch base with family
    #. Biliary Obstruction:  The patient has tumor obstructing the
   afferent limb of the pancreaticobiliary anastamosis, now s/p stent
   placement.  The stent continues to drain bilus  fluid. Defer
   replacement of drain for now given clinical acuity.
    -  F/U LFTs
    - Continue Hydroxyzine prn for itching
    - Continue Vanc/meropenem; cipro for pseudomonas double coverage given
   bile GS had GNRs; follow up culture data
    - touch base with micro lab as speciation not listed
    - would consider lactulose for possible component of hepatic
   encephalopathy given AMS overnight
    # Pancreatic Cancer: Now widely metastatic.  Dr. [**Last Name (STitle) 2998**] and fellow
   met with patient on [**8-27**].  No role for chemo in this setting but would
   consider afteward.
   - Defer to Oncology for further management.
   - palliative care reccs
   # ARF:  The patient's Cr on admission was 3.3, which is increased from
   his baseline of 1.0.  Renal was C/S on this admission, and they believe
   the patient's ARF is likely [**2-2**] ATN (given contrast for CT, poor PO
   intake) v. renal obstruction.  HD line placed on [**8-27**] and now on CVVH.
    - cont CVVH
    - Continue IVFs as needed to maintain MAP > 65
    - F/U renal reccs
    - renally dose meds
    # Hyperkalemia:  The patient had a K of 5.4 on admission to the ICU.
   ECG did not show evidence of peaked T waves.
    - recheck EKG as needed
    - CVVH
   # DM2: On insulin gtt currently with well-controlled BG.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-8-31**] 05:30 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-26**] 07:45 PM
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Dialysis Catheter - [**2178-8-27**] 04:43 PM
   Arterial Line - [**2178-8-29**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-31 11:28:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60M with metastatic pancreatic cancer, presents with biliary
   obstruciton and sepsis, s/p percutaneous procedure, now with persistent
   septic shock:
   24 Hour Events:
   -pressors adjusted
   -on cvvh
   -sedation changed due to bradycardia
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2178-8-31**] 04:00 AM
   Meropenem - [**2178-8-31**] 08:00 AM
   Vancomycin - [**2178-8-31**] 08:37 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 2 units/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.19 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-8-31**] 02:33 AM
   Other medications:
   insulin gtt, asa, colace, hydrocort,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Integumentary (skin): Jaundice, No(t) Rash
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-8-31**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 70 (43 - 70) bpm
   BP: 104/61(74) {91/52(66) - 133/81(101)} mmHg
   RR: 22 (22 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 9 (8 - 10)mmHg
   Total In:
                                                                  7,995 mL
                                                                  3,906 mL
   PO:
   TF:
                                                                    120 mL
                                                                    293 mL
   IVF:
                                                                  7,845 mL
                                                                  3,493 mL
   Blood products:
   Total out:
                                                                  6,183 mL
                                                                  3,053 mL
   Urine:
                                                                     80 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
                                                                     70 mL
                                                                     50 mL
   Balance:
                                                                  1,812 mL
                                                                    853 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, No Spon Resp
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 78.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/41/125/23/0
   Ve: 11.4 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed; not responsive to noxious stimulus
   Labs / Radiology
   12.5 g/dL
   208 K/uL
   176
   2.4 mg/dL
   23 mEq/L
   4.2 mEq/L
   32 mg/dL
   95 mEq/L
   131 mEq/L
   38.7 %
   34.9 K/uL
        [image002.jpg]
                             [**2178-8-30**]  06:00 PM
                             [**2178-8-30**]  08:00 PM
                             [**2178-8-30**]  10:25 PM
                             [**2178-8-30**]  10:37 PM
                             [**2178-8-31**]  12:00 AM
                             [**2178-8-31**]  02:00 AM
                             [**2178-8-31**]  03:59 AM
                             [**2178-8-31**]  04:10 AM
                             [**2178-8-31**]  09:00 AM
                             [**2178-8-31**]  10:14 AM
   WBC
   34.9
   Hct
   38.7
   Plt
   208
   Cr
   2.4
   TCO2
   26
   26
   25
   Glucose
   154
   142
   134
   130
   130
   136
   156
   176
   Other labs: PT / PTT / INR:16.5/35.1/1.5, ALT / AST:127/204, Alk Phos /
   T Bili:875/16.7, Amylase / Lipase:/5, Differential-Neuts:89.0 %,
   Band:1.0 %, Lymph:1.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:3.1 mmol/L,
   Albumin:2.3 g/dL, LDH:391 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.6
   mg/dL
   Imaging: cxr: The ET tube tip is 8 cm above the carina. The left
   internal jugular line tip
   is at the mid SVC. The NG tube tip is in unchanged position with its
   tip in
   the stomach.
   Cardiomediastinal silhouette is stable. There is interval improvement
   of the
   perihilar opacities consistent with resolution of pulmonary edema with
   still
   present right upper lobe opacity that might represent either resolving
   edema
   or infectious process and should be closely followed to resolution.
   Bilateral
   pleural effusions are small-to-moderate, unchanged. There is no
   pneumothorax.
   Microbiology: ngtd in any cultures
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANXIETY
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, RESPIRATORY
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CANCER (MALIGNANT NEOPLASM), OTHER
   60M with metastatic pancreatic cancer, presents with biliary
   obstruciton and sepsis, s/p percutaneous procedure, now with persistent
   septic shock. Patient may have persistent infection in areas that are
   not being drained by the percutanous tube.
   Septic shock persists despite adequate attempts at source control and
   broad abx. There does seem to be some improvement over the last couple
   of days, stable enough to travel to IR for upsizing of drain. Let
   check ScVO2
   ARF likely from ATN, continuing on CVVH.
   Prognosis remains poor both from acute and subacute illness. Will
   continue family discussion.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-8-31**] 05:30 AM 30 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2178-8-26**] 07:45 PM
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Dialysis Catheter - [**2178-8-27**] 04:43 PM
   Arterial Line - [**2178-8-29**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2178-09-01 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**8-31**]:
   Restarted 2nd pressor. Intermittently hypoxic.
   Fluid boluses given.
   Recultured. Repeat CXR w/o change. KUB supine non diagnostic.
   Added empiric PO vanco for presumed c diff.
   24 Hour Events:
 BLOOD CULTURED - At [**2178-8-31**] 10:20 PM
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2178-9-1**] 12:00 AM
   Ciprofloxacin - [**2178-9-1**] 04:00 AM
   Vancomycin - [**2178-9-1**] 06:00 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Norepinephrine - 0.3 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-31**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-9-1**] 03:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-1**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (96.9
   HR: 62 (47 - 81) bpm
   BP: 138/72(93) {53/38(43) - 151/82(100)} mmHg
   RR: 23 (18 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 12 (7 - 12)mmHg
   Total In:
                                                                  9,117 mL
                                                                  2,539 mL
   PO:
   TF:
                                                                    691 mL
                                                                    221 mL
   IVF:
                                                                  8,246 mL
                                                                  2,318 mL
   Blood products:
   Total out:
                                                                  7,654 mL
                                                                  1,405 mL
   Urine:
                                                                    110 mL
   NG:
   Stool:
   Drains:
                                                                    110 mL
   Balance:
                                                                  1,463 mL
                                                                  1,134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.46/34/150/23/1
   Ve: 11.6 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   182 K/uL
   13.3 g/dL
   126 mg/dL
   2.0 mg/dL
   23 mEq/L
   4.1 mEq/L
   29 mg/dL
   96 mEq/L
   132 mEq/L
   41.3 %
   41.8 K/uL
        [image002.jpg]
                             [**2178-8-31**]  07:00 PM
                             [**2178-8-31**]  08:00 PM
                             [**2178-8-31**]  10:00 PM
                             [**2178-8-31**]  10:25 PM
                             [**2178-8-31**]  10:40 PM
                             [**2178-9-1**]  12:00 AM
                             [**2178-9-1**]  02:00 AM
                             [**2178-9-1**]  04:00 AM
                             [**2178-9-1**]  04:13 AM
                             [**2178-9-1**]  04:24 AM
   WBC
   45.0
   41.8
   Hct
   40.5
   41.3
   Plt
   189
   182
   Cr
   1.8
   2.0
   TCO2
   23
   25
   Glucose
   164
   169
   176
   153
   135
   127
   135
   126
   Other labs: PT / PTT / INR:15.3/33.2/1.3, ALT / AST:114/183, Alk Phos /
   T Bili:968/19.4, Amylase / Lipase:/5, Differential-Neuts:83.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:8.0 %, Eos:0.0 %, D-dimer:5753 ng/mL,
   Fibrinogen:288 mg/dL, Lactic Acid:3.2 mmol/L, Albumin:2.1 g/dL, LDH:485
   IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Blood cx [**8-27**], [**8-28**], [**8-31**] pending
[**2178-8-31**] 12:29 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2178-8-31**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   YEAST(S).
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANXIETY
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, RESPIRATORY
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CANCER (MALIGNANT NEOPLASM), OTHER
   60 yo man with h/o pancreatic cancer s/p Whipple/chemo/XRT, who
   presented with afferent limb obstruction of the pancreaticobiliary
   anastamosis and was transferred to the MICU with hypotension s/p
   extrahepatic drain placement.
   #. Sepsis:  Most likely secondary to biliary tree infection.  On
   levophed and Phenylephrine overnight, vanc/meropenem for ESBL
   coverage.  Started stress dose steroids on [**8-27**]. Also on empric PO
   vanco for c. diff coverage due to worsening leukocytosis.
    - Continue resuscitation with Levophed and Neo and IVFs if necessary
   for goal MAP > 65
    - Continue Vanc/meropenem/cipro for GNR on bile GS, d/w micro why
   unable to speciate GNRs on culture
    - Continue PO vanco for c. diff empiric tx
    - Monitor UOP for goal > 50 cc/h
    - Maintain glucose < 180; insulin ggt
    - continue hydrocort since continuing to have hypotension
    - Daily blood cultures
   -  Resend urine culture
   - When stable consider CT abd
   - RUQ u/s
   #. Hypoxic respiratory failure:  Intubated on [**8-27**] for hypoxia likely
   secondary to volume overload in the setting of oliguria.
   - AC/CMV for now
   - cont ARDS net protocol with low tidal volumes
   - Check Lactate and ABG q4-6h; pH goal 7.25
   - once BP stabilizes, will remove fluid
    #. Biliary Obstruction:  The patient has tumor obstructing the
   afferent limb of the pancreaticobiliary anastamosis, now s/p stent
   placement.  The stent continues to drain bilous  fluid. Defer
   replacement of drain for now given clinical acuity.
   -  F/U LFTs
   - Continue Hydroxyzine prn for itching
   - Continue Vanc/meropenem; cipro for pseudomonas double coverage given
   bile GS had GNRs; follow up culture data
   - touch base with micro lab as speciation not listed
    - Plan for larger biliary drain once more stable. Currently not stable
   (due to 2-pressor req) for travel down to IR
   # Pancreatic Cancer: Now widely metastatic.  Dr. [**Last Name (STitle) 2998**] and fellow
   met with patient on [**8-27**].  No role for chemo in this setting but would
   consider afteward.
   - Defer to Oncology for further management.
   - palliative care recs
   - Family meeting to be arranged with wife given poor prognosis, now
   needs 2 pressors
   # ARF:  The patient's Cr on admission was 3.3, which is increased from
   his baseline of 1.0.  Renal was C/S on this admission, and they believe
   the patient's ARF is likely [**2-2**] ATN (given contrast for CT, poor PO
   intake) v. renal obstruction.  HD line placed on [**8-27**] and now on CVVH.
    - cont CVVH, running even fluids for now
    - Continue IVFs as needed to maintain MAP > 65
    - F/U renal reccs
    - renally dose meds
    # Hyperkalemia:  The patient had a K of 5.4 on admission to the ICU.
   ECG did not show evidence of peaked T waves.
    - resolved with CVVH
   # Hyponatremia; Na of 132, stable
   - will monitor lytes
   # DM2:
   -on insulin gtt currently with well-controlled BG.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-9-1**] 06:16 AM 30 mL/hour
   - IL residuals this am; hold [**2-2**] high residuals
   Glycemic Control:  insulin gtt for now
   Lines:
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Dialysis Catheter - [**2178-8-27**] 04:43 PM
   Arterial Line - [**2178-8-29**] 07:00 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  oral care, head of bed elevated
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition:

2178-09-01 10:12:00 Physician Attending Progress Note
Chief Complaint: metastatic pancreatic cancer, biliary sepsis, renal
   failure, respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Hypotension, hypoxemia, and rising wbc. Bolused, new high pressor
   requirement. Pancultured. Started on po vanco for presumed C.diff.
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2178-9-1**] 04:00 AM
   Meropenem - [**2178-9-1**] 08:00 AM
   Vancomycin - [**2178-9-1**] 08:45 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Norepinephrine - 0.3 mcg/Kg/min
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-31**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-9-1**] 03:14 AM
   Midazolam (Versed) - [**2178-9-1**] 08:56 AM
   Other medications:
   Calcium drip, K sliding scale, citrate, [**Last Name (LF) 1488**], [**First Name3 (LF) 119**] 81, senna, po
   vancomycin
   Changes to medical and family history: none apart from listed above and
   below.
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain.
   Flowsheet Data as of  [**2178-9-1**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 65 (47 - 81) bpm
   BP: 122/66(83) {53/38(43) - 151/82(100)} mmHg
   RR: 22 (18 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 10 (7 - 13)mmHg
   Total In:
                                                                  9,117 mL
                                                                  3,524 mL
   PO:
   TF:
                                                                    691 mL
                                                                    256 mL
   IVF:
                                                                  8,247 mL
                                                                  3,268 mL
   Blood products:
   Total out:
                                                                  7,654 mL
                                                                  2,453 mL
   Urine:
                                                                    110 mL
                                                                     34 mL
   NG:
   Stool:
   Drains:
                                                                    110 mL
                                                                     40 mL
   Balance:
                                                                  1,463 mL
                                                                  1,071 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.46/34/150/23/1
   Ve: 11.5 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.3 g/dL
   182 K/uL
   126 mg/dL
   2.0 mg/dL
   23 mEq/L
   4.1 mEq/L
   29 mg/dL
   96 mEq/L
   132 mEq/L
   41.3 %
   41.8 K/uL
        [image002.jpg]
                             [**2178-8-31**]  07:00 PM
                             [**2178-8-31**]  08:00 PM
                             [**2178-8-31**]  10:00 PM
                             [**2178-8-31**]  10:25 PM
                             [**2178-8-31**]  10:40 PM
                             [**2178-9-1**]  12:00 AM
                             [**2178-9-1**]  02:00 AM
                             [**2178-9-1**]  04:00 AM
                             [**2178-9-1**]  04:13 AM
                             [**2178-9-1**]  04:24 AM
   WBC
   45.0
   41.8
   Hct
   40.5
   41.3
   Plt
   189
   182
   Cr
   1.8
   2.0
   TCO2
   23
   25
   Glucose
   164
   169
   176
   153
   135
   127
   135
   126
   Other labs: PT / PTT / INR:15.3/33.2/1.3, ALT / AST:114/183, Alk Phos /
   T Bili:968/19.4, Amylase / Lipase:/5, Differential-Neuts:83.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:8.0 %, Eos:0.0 %, D-dimer:5753 ng/mL,
   Fibrinogen:288 mg/dL, Lactic Acid:3.2 mmol/L, Albumin:2.1 g/dL, LDH:485
   IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Microbiology: sputum 1+ yeast, >25pmn
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Wean FiO2 as tolerated.
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   Acute renal failure. Continues to require CVVH.
 ANXIETY
   On versed, fentanyl
 INEFFECTIVE COPING: I have had a lengthy discussion with Mrs [**Known lastname 8549**]
   today to update regarding his current situation. He remains critically
   ill with increasing pressor need from presumed catheter infection (
   this has since been d/c
d). If we are to maximize pressors any further
   ( vasopressin, dopamine) without any further benefit, CPR will be of
   little value at that time and would amount to futile therapy in the
   setting of a PEA arrest. As such, we will not offer it in that clinical
   circumstance only. She has understood and wishes for all other heroic
   support to continue, which we will.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   On CVVH. Will need new catheter placed by IR when ready for travel.
 ACIDOSIS, RESPIRATORY
   On CVVH. And ACV, no need for PSV/ CPAP at this time
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   With worsening hypotension , requiring high doses of pressors,
   unresponsive to fluids Given elevated lactate, despite soft abdomen
   concerning for abdominal source given known collection, also
   potentially mesenteric ischemia, C.diff/megacolon. Line infection,
   especially femoral CVVH line of concern.
 CANCER (MALIGNANT NEOPLASM), OTHER
   Options for further care limited given current severe multiorgan
   failure. Appreciate Oncology input. Appreciate palliative chemotherapy.
   ICU Care
   Nutrition: tube feeds on hold due to high residuals.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Dialysis Catheter - [**2178-8-27**] 04:43 PM
   Arterial Line - [**2178-8-29**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments: daily wake up contraindicated with femoral CVVH catheter
   Communication:  Comments: see above
   Code status: Full code but CPR not indicated in the event of worsening
   septic shock
   Disposition : ICU
   Total time spent: 45minute

2178-09-02 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2178-9-1**] 11:00 AM
   Abd
 DIALYSIS CATHETER - STOP [**2178-9-1**] 12:00 PM
 BLOOD CULTURED - At [**2178-9-1**] 12:00 PM
   X2 (CVL and ALine sent)
 UNPLANNED LINE/CATHETER REMOVAL (NON-PATIENT INITATED) - At
   [**2178-9-1**] 12:00 PM
   -purulent drainage from HD line, line was removed by renal, CVVH held,
   renal wants family discussion before restarted
   - required levo and neo for most of the day, late at night was able to
   wean off neo
   - now CPR not indicated
   - wife would like [**Last Name (un) 8663**] to talk to his sons
   - now on linezolid for possible VRE
   - ultrasound of liver with moderate ascites; no significant change
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2178-9-1**] 09:24 PM
   Ciprofloxacin - [**2178-9-2**] 03:59 AM
   Vancomycin - [**2178-9-2**] 05:16 AM
   Meropenem - [**2178-9-2**] 07:26 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 2.5 units/hour
   Fentanyl - 50 mcg/hour
   Phenylephrine - 0.4 mcg/Kg/min
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2178-9-1**] 08:56 AM
   Pantoprazole (Protonix) - [**2178-9-1**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-9-2**] 01:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-2**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 73 (55 - 87) bpm
   BP: 111/66(79) {96/56(69) - 151/86(106)} mmHg
   RR: 22 (22 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.3 kg (admission): 95 kg
   Height: 71 Inch
    CVP: 6 (4 - 13)mmHg
   Total In:
                                                                  5,489 mL
                                                                    921 mL
   PO:
   TF:
                                                                    256 mL
   IVF:
                                                                  5,232 mL
                                                                    861 mL
   Blood products:
   Total out:
                                                                  4,707 mL
                                                                    305 mL
   Urine:
                                                                     69 mL
                                                                      5 mL
   NG:
                                                                  1,200 mL
                                                                    300 mL
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                    782 mL
                                                                    616 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 95%
   ABG: 7.41/36/84.[**Numeric Identifier 117**]/20/0
   Ve: 11.4 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   177 K/uL
   13.9 g/dL
   102 mg/dL
   2.7 mg/dL
   20 mEq/L
   4.9 mEq/L
   44 mg/dL
   94 mEq/L
   130 mEq/L
   42.5 %
   45.0 K/uL
        [image002.jpg]
                             [**2178-8-31**]  10:40 PM
                             [**2178-9-1**]  12:00 AM
                             [**2178-9-1**]  02:00 AM
                             [**2178-9-1**]  04:00 AM
                             [**2178-9-1**]  04:13 AM
                             [**2178-9-1**]  04:24 AM
                             [**2178-9-1**]  10:05 AM
                             [**2178-9-1**]  10:32 AM
                             [**2178-9-2**]  03:43 AM
                             [**2178-9-2**]  04:18 AM
   WBC
   41.8
   45.0
   Hct
   41.3
   42.5
   Plt
   182
   177
   Cr
   2.0
   2.7
   TCO2
   23
   25
   24
   24
   Glucose
   135
   127
   135
   126
   153
   102
   Other labs: PT / PTT / INR:17.0/36.8/1.5, ALT / AST:114/183, Alk Phos /
   T Bili:968/19.4, Amylase / Lipase:/5, Differential-Neuts:83.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:8.0 %, Eos:0.0 %, D-dimer:5753 ng/mL,
   Fibrinogen:288 mg/dL, Lactic Acid:3.6 mmol/L, Albumin:2.1 g/dL, LDH:485
   IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Imaging: RUQ U/S:
   1. Moderate ascites, not significantly changed. No focal fluid
   collection.
   2. Right pleural effusion.
   3. Multiple hepatic hypoechoic lesions, consistent with the history of
   metastatic disease.
   Microbiology: Bile Fluid [**2178-9-1**]: Negative
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ANXIETY
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, RESPIRATORY
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CANCER (MALIGNANT NEOPLASM), OTHER
   60 yo man with h/o pancreatic cancer s/p Whipple/chemo/XRT, who
   presented with afferent limb obstruction of the pancreaticobiliary
   anastamosis and was transferred to the MICU with hypotension s/p
   extrahepatic drain placement.
   #. Sepsis:  Most likely due to infected HD line, now removed. Weaned
   off neo. On levophed overnight. Added linezolid for VRE coverage.
   Continued meropenem for ESBL coverage.  Started stress dose steroids on
   [**8-27**]. Also on empric PO vanco for c. diff coverage. Did not pass stool,
   so no c diff sample. WBC still 42.
    - Continue resuscitation with Levophed and IVF for goal MAP > 65
    - Continue Linezolid/meropenem/cipro for GNRs
    - Continue PO vanco for c. diff empiric tx
    - Monitor UOP for goal > 50 cc/h
    - Maintain glucose < 180; insulin ggt
    - wean hydrocort  to q8
    - Daily blood cultures
   -  F/U cultures: NGTD
   - When stable consider CT abd
   - RUQ u/s with ascites, but no pockets of fluid collection.
   #. Hypoxic respiratory failure:  Intubated on [**8-27**] for hypoxia likely
   secondary to volume overload in the setting of oliguria.
   - AC/CMV for now
   - cont ARDS net protocol with low tidal volumes
   - Check Lactate and ABG daily; pH goal 7.25
   - once BP stabilizes, will remove fluid
    #. Biliary Obstruction:  The patient has tumor obstructing the
   afferent limb of the pancreaticobiliary anastamosis, now s/p stent
   placement.  The stent continues to drain bilous  fluid. As more
   clinically stable, will change drain today
   -  F/U LFTs
   - Continue Hydroxyzine prn for itching
   - Continue linezolid/meropenem; cipro for pseudomonas double coverage
   given bile GS had GNRs; culture data negative for anaerobes
    - Plan for larger biliary drain when more stable
   # Pancreatic Cancer: Now widely metastatic.  Dr. [**Last Name (STitle) 2998**] and fellow
   met with patient on [**8-27**].  No role for chemo in this setting but would
   consider afteward.
   - Defer to Oncology for further management.
   - palliative care recs
   - Family meeting yesterday. Code status now CPR not indicated.
   # ARF:  Cr 2.7. Stopped HD given infected line. Goals of care to have
   pt wake to speak to sons. [**Name (NI) **] place HD line for CVVH per discussion
   with family.
   - F/U renal recs
    - renally dose meds
   # Hyponatremia; Na of 130, stable
   - will monitor lytes
   # DM2:
   -on insulin gtt currently with well-controlled BG.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Arterial Line - [**2178-8-29**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition:

2178-09-02 11:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2178-9-1**] 11:00 AM
   Abdominal: no undrained collection visualized
 DIALYSIS CATHETER - STOP [**2178-9-1**] 12:00 PM
 BLOOD CULTURED - At [**2178-9-1**] 12:00 PM
   X2 (CVL and ALine sent)
   Remains on 2 pressors, Neo weaned considerably
                   History obtained from Medical records
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2178-9-1**] 09:24 PM
   Ciprofloxacin - [**2178-9-2**] 03:59 AM
   Vancomycin - [**2178-9-2**] 05:16 AM
   Meropenem - [**2178-9-2**] 07:26 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 2.5 units/hour
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-9-1**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-9-2**] 09:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-2**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 105 (55 - 105) bpm
   BP: 94/59(70) {81/51(60) - 151/86(106)} mmHg
   RR: 22 (18 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.3 kg (admission): 95 kg
   Height: 71 Inch
   CVP: 7 (4 - 12)mmHg
   Total In:
                                                                  5,489 mL
                                                                  1,075 mL
   PO:
   TF:
                                                                    256 mL
   IVF:
                                                                  5,232 mL
                                                                  1,015 mL
   Blood products:
   Total out:
                                                                  4,707 mL
                                                                    336 mL
   Urine:
                                                                     69 mL
                                                                     21 mL
   NG:
                                                                  1,200 mL
                                                                    300 mL
   Stool:
   Drains:
                                                                     40 mL
                                                                     15 mL
   Balance:
                                                                    782 mL
                                                                    739 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   SpO2: 95%
   ABG: 7.41/36/84.[**Numeric Identifier 117**]/20/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Thin, icteric
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   transmitted upper respiratory sounds
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, wakes up with sedation holiday, sits up and appears
   agitation.
   Labs / Radiology
   13.9 g/dL
   177 K/uL
   102 mg/dL
   2.7 mg/dL
   20 mEq/L
   4.9 mEq/L
   44 mg/dL
   94 mEq/L
   130 mEq/L
   42.5 %
   45.0 K/uL
        [image002.jpg]
                             [**2178-8-31**]  10:40 PM
                             [**2178-9-1**]  12:00 AM
                             [**2178-9-1**]  02:00 AM
                             [**2178-9-1**]  04:00 AM
                             [**2178-9-1**]  04:13 AM
                             [**2178-9-1**]  04:24 AM
                             [**2178-9-1**]  10:05 AM
                             [**2178-9-1**]  10:32 AM
                             [**2178-9-2**]  03:43 AM
                             [**2178-9-2**]  04:18 AM
   WBC
   41.8
   45.0
   Hct
   41.3
   42.5
   Plt
   182
   177
   Cr
   2.0
   2.7
   TCO2
   23
   25
   24
   24
   Glucose
   135
   127
   135
   126
   153
   102
   Other labs: PT / PTT / INR:17.0/36.8/1.5, ALT / AST:114/183, Alk Phos /
   T Bili:968/21.6, Amylase / Lipase:/5, Differential-Neuts:83.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:8.0 %, Eos:0.0 %, D-dimer:5753 ng/mL,
   Fibrinogen:288 mg/dL, Lactic Acid:3.6 mmol/L, Albumin:2.1 g/dL, LDH:485
   IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR:
   Microbiology: Culture
   Assessment and Plan
 ALTERATION IN NUTRITION
   Will continue OG tube to suction. As residuals are high with OG tube
   clamped. Continue to hold tube feeds.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   wean ventilator as tolerated will discuss Tracheostomy with wife.
 ANXIETY
   on sedation, will attempt to wean slowly.
 INEFFECTIVE COPING
   CPR not medically indicated, discussed with wife yesterday.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): likely resume CVVH
   in the next 24hours. Will need IR guided dialysis line in am [**2178-9-3**]
 ACIDOSIS, RESPIRATORY
   Lactate, and related to renal failure, continue to follow.
 HYPOTENSION (NOT SHOCK):
   Likely new source from infected femoral catheter. wean pressors as
   tolerated, keep CVP 8-12. lactate remains elevated. Will attempt to
   obtain Abdominal CT today. On linezolid, meropenem, cipro. Wean iv
   steroids to q8h today.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): see hypotension.
 CANCER (MALIGNANT NEOPLASM), OTHER
   no chemotherapeutic options.
   ICU Care
   Nutrition:
   Comments: onhold due to high residuals
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Arterial Line - [**2178-8-29**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held  Comments:
   Code status: pressors OK, CPR not indicated in setting of PEA arrest
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2178-09-03 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**9-2**]
   - Weaned steroids to q8
   - Linezolid approved by ID
   - IR-guided biliary drain and HD line  for [**9-3**]
   - No BM since [**8-25**]
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2178-9-3**] 02:00 AM
   Ciprofloxacin - [**2178-9-3**] 04:06 AM
   Vancomycin - [**2178-9-3**] 06:02 AM
   Meropenem - [**2178-9-3**] 07:30 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Insulin - Regular - 5 units/hour
   Phenylephrine - 0.2 mcg/Kg/min
   Norepinephrine - 0.34 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-9-2**] 12:33 PM
   Heparin Sodium (Prophylaxis) - [**2178-9-3**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-3**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 63 (63 - 117) bpm
   BP: 131/69(89) {68/47(55) - 153/85(106)} mmHg
   RR: 22 (18 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.3 kg (admission): 95 kg
   Height: 71 Inch
    CVP: 6 (4 - 21)mmHg
   Total In:
                                                                  3,662 mL
                                                                  1,583 mL
   PO:
   TF:
   IVF:
                                                                  3,307 mL
                                                                  1,583 mL
   Blood products:
   Total out:
                                                                    655 mL
                                                                     30 mL
   Urine:
                                                                     35 mL
                                                                     30 mL
   NG:
                                                                    590 mL
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                  3,007 mL
                                                                  1,553 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 14 cmH2O
   Compliance: 91.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/34/86/19/-2
   Ve: 11.3 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Cold
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   13.9 g/dL
   159 mg/dL
   4.5 mg/dL
   19 mEq/L
   5.2 mEq/L
   67 mg/dL
   90 mEq/L
   128 mEq/L
   42.4 %
   39.4 K/uL
        [image002.jpg]
                             [**2178-9-1**]  04:00 AM
                             [**2178-9-1**]  04:13 AM
                             [**2178-9-1**]  04:24 AM
                             [**2178-9-1**]  10:05 AM
                             [**2178-9-1**]  10:32 AM
                             [**2178-9-2**]  03:43 AM
                             [**2178-9-2**]  04:18 AM
                             [**2178-9-2**]  05:25 PM
                             [**2178-9-2**]  07:26 PM
                             [**2178-9-3**]  03:15 AM
   WBC
   41.8
   45.0
   39.4
   Hct
   41.3
   42.5
   42.4
   Plt
   182
   177
   201
   Cr
   2.0
   2.7
   4.5
   TCO2
   25
   24
   24
   23
   22
   Glucose
   135
   126
   153
   102
   159
   Other labs: PT / PTT / INR:18.8/39.1/1.7, ALT / AST:85/179, Alk Phos /
   T Bili:1089/23.7, Amylase / Lipase:/5, Differential-Neuts:60.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:18.0 %, Eos:0.0 %, D-dimer:5753 ng/mL,
   Fibrinogen:288 mg/dL, Lactic Acid:4.2 mmol/L, Albumin:2.1 g/dL, LDH:511
   IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:6.5 mg/dL
   Hypochr: 1+ Anisocy: 2+ Poiklo: 2+ Macrocy: 2+ Microcy: 1+ Polychr: 1+
   Spheroc: 1+ Target: 2+ Schisto: OCCASIONAL Burr: OCCASIONAL Stipple:
   OCCASIONAL Tear-Dr: OCCASIONAL How-Jol: OCCASIONAL
   Plt-Est: Normal
   [**9-1**] Bile- no growth to date
   [**8-31**]- sputum yeast
   [**9-1**]
 HD line tip no growth
   Assessment and Plan
   60 yo man with h/o pancreatic cancer s/p Whipple/chemo/XRT, who
   presented with afferent limb obstruction of the pancreaticobiliary
   anastamosis and was transferred to the MICU with hypotension s/p
   extrahepatic drain placement.
   # Hypotension: Currently on two pressors with low BP
s, low CVP, pt
   getting additional bolus. Metabolic acidosis on ABG appears worse,
   likely [**2-2**] infection, lactate elevated. Given intermittently low pulse
   pressure, will evaluate for cardiogenic etiology. Concern for possible
   proximal bowel obstruction due to appearance of esophagus on CXR (not
   confirmed with radiology) and also large residual when last on tube
   feed, if this was the case, may partially explain worsening
   hypotension.
   - Send cardiac enzymes, EKG
   - Check lytes
   - Plan to start additional pressor prn hypotension (likely vasopressin
   unless cardiac enzymes/EKG indicate coronary etiology)
   -review cxr with radiology
   #. Sepsis:  Most likely due to infected HD line, now removed. On
   levophed and neosyn this am with low BP
s and tachycardia. On linezolid
   for VRE coverage. Continued meropenem for ESBL coverage.  Started
   stress dose steroids on [**8-27**]. Also on empiric PO vanco for c. diff
   coverage. Did not pass stool, so no c diff sample. WBC 39.4.
   - Continue resuscitation with Levophed and Neo and IVF for goal MAP >
   65
   - start vasopressin if needed
   - start micafungin on [**9-3**] for fungal coverage
   - Continue Linezolid/meropenem/cipro for GNRs
   - Continue PO vanco for c. diff empiric tx
   - Monitor UOP for goal > 50 cc/h
   - Maintain glucose < 180; insulin ggt
   - Continue hydrocort  to q8
   - Daily blood cultures
   -  F/U cultures: NGTD
   - When stable consider CT abd
   - RUQ u/s with ascites, but no pockets of fluid collection
   #. Hypoxic respiratory failure:  Intubated on [**8-27**] for hypoxia likely
   secondary to volume overload in the setting of oliguria. Will go back
   up on PEEP to 8
   - AC/CMV for now
   - cont ARDS net protocol with low tidal volumes
   - Check Lactate and ABG
    #. Biliary Obstruction:  The patient has tumor obstructing the
   afferent limb of the pancreaticobiliary anastamosis, now s/p stent
   placement.  The stent continues to drain bilous  fluid. As more
   clinically stable, will change drain, too unstable today.
   -  F/U LFTs
   - Continue Hydroxyzine prn for itching
   - Continue linezolid/meropenem; cipro for pseudomonas double coverage
   given bile GS had GNRs; culture data negative for anaerobes
   - Plan for larger biliary drain when more stable
   # Pancreatic Cancer: Now widely metastatic.  Dr. [**Last Name (STitle) 2998**] and fellow
   met with patient on [**8-27**].  No role for chemo in this setting but would
   consider afteward.
   - Defer to Oncology for further management.
   - palliative care recs
   - Family meeting-. Code status now CPR not indicated.
   # ARF:  Cr 2.7. Stopped HD given infected line. Goals of care to have
   pt wake to speak to sons. [**Name (NI) **] place need to place HD line for CVVH per
   discussion with family, but currently unstable.
   - F/U renal recs
   - renally dose meds
   # Hyponatremia; Na of 128
   - will monitor lytes
   # DM2:
   -on insulin gtt currently with well-controlled BG.
   ICU Care
   Nutrition: holding tube feeds due to residuals
   Holding TF [**2-2**] to high residuals
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Arterial Line - [**2178-8-29**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: ICU for now, condition very unstable

2178-09-03 09:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: metastatic pancreatic cancer, biliary sepsis, respiratory failure
   24 Hour Events:
   Steroids weaned to q8, continued on linezolid empirically for VRE.
   Continued increased residuals from NG, no bowel movements. Hypotensive
   this AM  requiring boluses 500cc x2, max'd dose levo of 0.5, neo
   restarted at 0.5.
   History obtained from Medical records
   Allergies:
   Flagyl (Oral) (Metronidazole)
   Hypotension; Se
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2178-9-3**] 02:00 AM
   Ciprofloxacin - [**2178-9-3**] 04:06 AM
   Vancomycin - [**2178-9-3**] 06:02 AM
   Meropenem - [**2178-9-3**] 07:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Insulin - Regular - 5 units/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Norepinephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-9-2**] 12:33 PM
   Heparin Sodium (Prophylaxis) - [**2178-9-3**] 02:00 AM
   Other medications:
   [**Last Name (LF) 1488**], [**First Name3 (LF) **], chlorhexidine, hydrocortizone 50mg iv q8
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-3**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 100 (63 - 117) bpm
   BP: 90/56(68) {68/47(55) - 153/85(106)} mmHg
   RR: 22 (18 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.3 kg (admission): 95 kg
   Height: 71 Inch
   CVP: 6 (4 - 21)mmHg
   Total In:
                                                                  3,662 mL
                                                                  1,651 mL
   PO:
   TF:
   IVF:
                                                                  3,307 mL
                                                                  1,651 mL
   Blood products:
   Total out:
                                                                    655 mL
                                                                     30 mL
   Urine:
                                                                     35 mL
                                                                     30 mL
   NG:
                                                                    590 mL
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                  3,007 mL
                                                                  1,621 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 13 cmH2O
   Compliance: 110 cmH2O/mL
   SpO2: 96%
   ABG: 7.34/34/86/19/-6
   Ve: 11.7 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: cool and calmped down
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant), tachy
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : )
   Abdominal: Soft, Non-tender, no bowel sounds
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, cool
   Skin:  Cool
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Decreased
   Labs / Radiology
   13.9 g/dL
   201 K/uL
   159 mg/dL
   4.5 mg/dL
   19 mEq/L
   5.2 mEq/L
   67 mg/dL
   90 mEq/L
   128 mEq/L
   42.4 %
   39.4 K/uL
        [image002.jpg]
                             [**2178-9-1**]  04:13 AM
                             [**2178-9-1**]  04:24 AM
                             [**2178-9-1**]  10:05 AM
                             [**2178-9-1**]  10:32 AM
                             [**2178-9-2**]  03:43 AM
                             [**2178-9-2**]  04:18 AM
                             [**2178-9-2**]  05:25 PM
                             [**2178-9-2**]  07:26 PM
                             [**2178-9-3**]  03:15 AM
                             [**2178-9-3**]  08:07 AM
   WBC
   41.8
   45.0
   39.4
   Hct
   41.3
   42.5
   42.4
   Plt
   182
   177
   201
   Cr
   2.0
   2.7
   4.5
   TCO2
   25
   24
   24
   23
   22
   19
   Glucose
   126
   153
   102
   159
   Other labs: PT / PTT / INR:18.8/39.1/1.7, ALT / AST:85/179, Alk Phos /
   T Bili:1089/23.7, Amylase / Lipase:/5, Differential-Neuts:60.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:18.0 %, Eos:0.0 %, D-dimer:5753 ng/mL,
   Fibrinogen:288 mg/dL, Lactic Acid:4.2 mmol/L, Albumin:2.1 g/dL, LDH:511
   IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:6.5 mg/dL
   Fluid analysis / Other labs: alkP 1089
   Imaging: CXR, ETT and central line in good position, lung fields clear,
   bilateral pleural effusion, ? dilated esophagus.
   Microbiology: bile NGTD
   sputum  yeast
   HD catheter no growth
   Assessment and Plan
 ALTERATION IN NUTRITION
   continue to hold tube feeds due to high residuals.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Continue ventilator support, not able to wean due to multiorgan
   dysfunction and hemodynamic instablility.
 ACIDOSIS, Hyperkalemia, renal failure.
   Lactic acidosis + renal failure. Renal to replace CVVH catheter today.
   Needs CVVH to resume as soon as possible.
   Renal dose medicaitons
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):
   Worsening, source unclear, add micafungin to cover for candidemia.
   Dilated esophagus on CXR of unclear etiology will discuss with
   radiology. ? promiximal duodenal obstruciton [**2-2**] to pancreatic cancer.
   Lactic acid continues to rise. Not possible to travel to CT due to
   instability. Continue pressor support, will add vasopressin if
   necessary. Will also obtain ekg and cardiac enzymes given narrow pulse
   pressure. Will give fluids to keep CVP 8-12. Will contact family
 CANCER (MALIGNANT NEOPLASM), OTHER
   no further therapy possible.
   ICU Care
   Nutrition:
   Comments: on hold due to high residuals
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2178-8-26**] 09:09 PM
   Arterial Line - [**2178-8-29**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: plan to discuss status with his family ( wife
   and brother)  but I do not think he will tolerate CVVH any further
   Code status: DNR (do not resuscitate), may need to be CMO if family
   concurs
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill